US05811439
The same procedures used in Example 1 were repeated except for using 3.68 g of (3-trifluoromethylbenzyl) methanesulfonate and 2.00 g of indole-3-carbaldehyde as a starting material to give 3.98 g of 1-(3-trifluoromethylbenzyl)indole-3-carbaldehyde as pale yellow crystals. The yield thereof was found to be 95%.

reactant | (3-trifluoromethylbenzyl) methanesulfonate | 3.68 g | CS(=O)(=O)OCC1=CC(=CC=C1)C(F)(F)F | C9H9F3O3S
reactant | indole-3-carbaldehyde | 2.00 g | N1C=C(C2=CC=CC=C12)C=O | C9H7NO
product | 1-(3-trifluoromethylbenzyl)indole-3-carbaldehyde | 3.98 g | FC(C=1C=C(CN2C=C(C3=CC=CC=C23)C=O)C=CC1)(F)F | C17H12F3NO
